US05047521
To a solution of 0.30 g of 5'-O-acetyl-2'-deoxy-5-fluoro-3'-O-(2-thienyl)methyluridine in 10 ml of dioxane were added 0.55 ml of triethylamine and 0.16 g of 4-methoxy-benzoyl chloride. The mixture was stirred at 80° C. for 2 hours. The solvent was distilled off and the residue was dissolved in 30 ml of ethyl acetate. The solution was washed with water. The ethyl acetate layer was dried over sodium anhydrous sulfate and concentrated. The residue was subjected to silica gel chromatography and purified by elution with chloroform, giving 0.37 g of 5'-O-acetyl-2'-deoxy-5-fluoro-3-(4-methoxybenzoyl)-3'-O-(2-thienyl)me thyluridine in a yield of 91%.

reactant | 5'-O-acetyl-2'-deoxy-5-fluoro-3'-O-(2-thienyl)methyluridine | 0.30 g | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)OCC=1SC=CC1 | C16H17FN2O6S
reactant | triethylamine | 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-benzoyl chloride | 0.16 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5'-O-acetyl-2'-deoxy-5-fluoro-3-(4-methoxybenzoyl)-3'-O-(2-thienyl)me thyluridine | 0.37 g, yield of 91% | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N(C(=O)C(=C1)F)C(C1=CC=C(C=C1)OC)=O)OCC=1SC=CC1 | C24H23FN2O8S
